US06316482B1
To a solution of ethyl 2-mercapto-1H-benzimidazole-4-carboxylate (500 mg) were added iodomethane (351 mg) and potassium carbonate (622 mg) at ambient temperature and the mixture was stirred for 20 hours at same temperature. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with diisopropyl ether to give ethyl 2-methylthio-1H-benzimidazole-4-carboxylate (310 mg).

reactant | ethyl 2-mercapto-1H-benzimidazole-4-carboxylate | 500 mg | SC1=NC2=C(N1)C=CC=C2C(=O)OCC | C10H10N2O2S
reactant | iodomethane | 351 mg | IC | CH3I
reactant | potassium carbonate | 622 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 2-methylthio-1H-benzimidazole-4-carboxylate | 310 mg | CSC1=NC2=C(N1)C=CC=C2C(=O)OCC | C11H12N2O2S
